US06297196B1
Step 9: Methyl 4-{[3-chloro-5-(trifluoromethyl)-2-pyridyl]oxy}-5,8-dimethyl-1,1-dioxo-1,2,3,4-tetrahydro-1λ6-thiochromene-6-carboxylate
0.48 g (1.7 mmol) of methyl 5,8-dimethyl-4-hydroxy-1,1-dioxo-1,2,3,4-tetrahydro-1λ6-thiochromene-6-carboxylate and 0.4 g (1.9 mmol) of 2,5-dichloro-3-(trifluoromethyl)pyridine were dissolved in 20 ml of tetrahydrofuran and subsequently admixed with 0.21 g (1.9 mmol) of potassium tert-butoxide. The mixture was stirred for 3 h and subsequently concentrated using a rotary evaporator. The residue was taken up in 100 ml of ethyl acetate, washed with sat. NaCl solution (2×20 ml), dried over MgSO4 and concentrated using a rotary evaporator. The residue was purified by chromatography (silica gel, ethyl acetate: heptane=1:3).

reactant | methyl 5,8-dimethyl-4-hydroxy-1,1-dioxo-1,2,3,4-tetrahydro-1λ6-thiochromene-6-carboxylate | 1.7 mmol, 0.48 g | CC1=C2C(CCS(C2=C(C=C1C(=O)OC)C)(=O)=O)O | C13H16O5S
reactant | 2,5-dichloro-3-(trifluoromethyl)pyridine | 1.9 mmol, 0.4 g | ClC1=NC=C(C=C1C(F)(F)F)Cl | C6H2Cl2F3N
reactant | potassium tert-butoxide | 1.9 mmol, 0.21 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Methyl 4-{[3-chloro-5-(trifluoromethyl)-2-pyridyl]oxy}-5,8-dimethyl-1,1-dioxo-1,2,3,4-tetrahydro-1λ6-thiochromene-6-carboxylate | ClC=1C(=NC=C(C1)C(F)(F)F)OC1CCS(C2=C(C=C(C(=C12)C)C(=O)OC)C)(=O)=O | C19H17ClF3NO5S
